US08980877B2
(±)-(E)-3-[1′-Methyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid (330 mg, 0.94 mmol) was treated with NH2OTHP according to the procedure described in Example 23, Step C, giving (±)-(E)-3-[1′-methyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide as a yellow solid (220 mg).

reactant | (±)-(E)-3-[1′-Methyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-acrylic acid | 0.94 mmol, 330 mg | CN1CCC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C18H21NO4
reactant | NH2OTHP | NOC1OCCCC1 | C5H11NO2
product | (±)-(E)-3-[1′-methyl-4-oxo-spiro(chromane-2,4′-azepane)-6-yl]-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 220 mg | CN1CCC2(CCC1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)NOC2OCCCC2 | C23H30N2O5
